US08912188B2
To a solution of methyl 2-chloro-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (300 mg, 0.98 mmol) in 1,3-benzothiazole (266 mg, 1.97 mmol) was added Pd(PPh3)4 (57 mg, 0.05 mmol,) and potassium acetate (193 mg, 1.97 mmol) under an atmosphere of nitrogen. The resulting solution was stirred for 2 h at 170° C. and then quenched by the addition of NH4Cl solution (150 mL), extracted with dichloromethane (3×20 mL) and the organic layers combined and dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 1%-5% ethyl acetate in petroleum ether to afford methyl 2-(1,3-benzothiazol-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate as a yellow solid (80 mg, 20%).

reactant | methyl 2-chloro-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.98 mmol, 300 mg | ClC1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C15H16ClN3O2
reactant | 1,3-benzothiazole | 1.97 mmol, 266 mg | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | potassium acetate | 1.97 mmol, 193 mg | C(C)(=O)[O-].[K+]
catalyst | Pd(PPh3)4 | 0.05 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(1,3-benzothiazol-2-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 80 mg, 20% | S1C(=NC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C22H20N4O2S
